US05663297
500 mg of 4-piperidinepropionic acid are added at 2° C. to a solution of 553 mg of S-methyl-isothiourea sulphate in 3.2 ml of 2N sodium hydroxide solution. After leaving to stand at room temperature overnight the separated crystals are filtered off, washed with water, acetone and ether and dried. There are obtained 600 mg of 1-amidino-4-piperidinepropionic acid, m.p. above 275° C.

reactant | 4-piperidinepropionic acid | 500 mg | N1CCC(CC1)CCC(=O)O | C8H15NO2
reactant | S-methyl-isothiourea sulphate | 553 mg | S(=O)(=O)(O)O.CSC(N)=N
solvent | sodium hydroxide | 2N, 3.2 ml | [OH-].[Na+]
product | 1-amidino-4-piperidinepropionic acid | 600 mg | C(N)(=N)N1CCC(CC1)CCC(=O)O | C9H17N3O2
